US06211199B1
7.1 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-dimethylphenyl)pyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-dimethylphenyl)pyrrolidine (0.46 g, 0.76 mmol) and tetrahydrofuran (35 mL). Cool to −78° C. using a dry-ice/acetone bath. Add a solution of potassium bis(trimethylsilyl)amide (2.1 mL, 0.5 M in toluene, 1.05 mmol). After 20 minutes, warm to ambient temperature. Add tetrabutylammonium bromide (0.21 g, 0.65 mmol) and 2-chloroethyl ethyl ether (1 mL). Heat to reflux. After 2 days, cool the reaction mixture and dilute with dichloromethane. Extract with water and saturated aqueous solution of sodium chloride. Concentrate the separated organic layer in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 28% methanol/0.7% concentrated aqueous ammonia/ethyl acetate to give the title compound: Rf=0.26 (silica gel, 30% methanol/ethyl acetate).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-dimethylphenyl)pyrrolidine | 0.76 mmol, 0.46 g | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)C)C)CCN2CCC(CC2)NC2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C36H45N5O4
reactant | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
reactant | potassium bis(trimethylsilyl)amide | 1.05 mmol, 0.5 M, 2.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 2-chloroethyl ethyl ether | 1 mL | C(C)OCCCl | C4H9ClO
catalyst | tetrabutylammonium bromide | 0.65 mmol, 0.21 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-dimethylphenyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)C)C)CCN2CCC(CC2)NC2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C40H53N5O5
